US07994324B2
rac-N2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=320.4 (M+H+), was prepared in accordance with the general method of example 16 from 5-nitro-2-chloroquinoline and 8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-amine (CAS 535935-61-6).

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-amine | COC=1C=CC=C2CCCC(C12)N | C11H15NO
product | rac-N2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,5-diamine | COC=1C=CC=C2CCCC(C12)NC1=NC=2C=CC=C(C2C=C1)N | C20H21N3O
